US07253292B2
Step c) 5,8-dimethyl-5,6-dihydroindeno[2,1-b]indole
A mixture of 1.04 g (0.0042 mol) of 5,8-dimethylindeno[2,1-b]indol-6(5H)-one and 1.12 mL (0.0224 mol) of hydrazine monohydrate in 20 mL of diethylene glycol was stirred at 80° C. for 1 h and then refluxed for 1 h. The resulting mixture was cooled to r.t., treated with a solution of 1.2 g (0.0214 mol) of KOH in 5 mL of water and then it was refluxed for 2 h. The resulting mixture was poured into 100 mL of water, the precipitate was filtered, washed 5 times with 50 mL of water and dried. Yield 0.84 g (86%) of greenish solid.

reactant | 5,8-dimethylindeno[2,1-b]indol-6(5H)-one | 0.0042 mol, 1.04 g | CN1C2=C(C3=CC=CC=C13)C1=CC=C(C=C1C2=O)C | C17H13NO
reactant | hydrazine monohydrate | 0.0224 mol, 1.12 mL | O.NN
reactant | KOH | 0.0214 mol, 1.2 g | [OH-].[K+]
solvent | diethylene glycol | 20 mL | C(COCCO)O | C4H10O3
solvent | water | 5 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | 5,8-dimethyl-5,6-dihydroindeno[2,1-b]indole | CN1C2=C(C3=CC=CC=C13)C1=CC=C(C=C1C2)C | C17H15N
